US07456169B2
5-Bromo-isoquinoline N-oxide
A mixture of 5-bromoisoquinoline (0.83 g, 3.0 mmol), MCPBA (1.84 g, 8 mmol) and NaHCO3 (0.672 g, 8 mmol) in CH2Cl2 (10 mL) and H2O (5 mL) was stirred overnight. The solvents were removed, and the residue was purified by silica gel column chromatography eluting with EtOAc to give 0.51 g of the title compound. MS (APCI) m/e 225 (M+H)+.

reactant | 5-bromoisoquinoline | 3.0 mmol, 0.83 g | BrC1=C2C=CN=CC2=CC=C1 | C9H6BrN
reactant | MCPBA | 8 mmol, 1.84 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | NaHCO3 | 8 mmol, 0.672 g | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 5 mL | O | H2O
product | 5-Bromo-isoquinoline N-oxide | 0.51 g | BrC1=C2C=C[N+](=CC2=CC=C1)[O-] | C9H6BrNO
